US07291641B2
30.1) 2-chloro-1-(10H-phenothiazin-2-yl)ethanone
2-bromo-1-[10-(chloroacetyl)-10H-phenothiazin-2-yl)ethanone (2.2 g; 5.55 mmol; prepared according to a protocol described in J. Heterocyclic. Chem. (1978), 15, 175, followed by a Friedel-Crafts reaction) is dissolved hot in a mixture of acetic acid (20 ml) and 20% HCl (5.5 ml) and the mixture obtained is heated under reflux for 30 minutes. The reaction mixture is allowed to cool down, the precipitate is filtered, the mixture rinsed with acetic acid (5 ml) and dried under vacuum, the solid obtained is purified by crystallization from toluene in order to produce a brown product with a yield of 82%. Melting point: 190-191° C. (value in the literature: 197-198° C.).

reactant | 2-bromo-1-[10-(chloroacetyl)-10H-phenothiazin-2-yl)ethanone | BrCC(=O)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CCl)=O | C16H11BrClNO2S
reactant | HCl | 5.5 ml | Cl | ClH
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 2-chloro-1-(10H-phenothiazin-2-yl)ethanone | yield of 82% | ClCC(=O)C1=CC=2NC3=CC=CC=C3SC2C=C1 | C14H10ClNOS
